US09388197B2
A.1.9.5. 7-((Tetrahydro-2H-pyran-2-yl)oxy)-6,7-dihydro-5H-pyrano[2,3-d]thiazole
A soln. of 3-(4-chlorothiazol-5-yl)-3-((tetrahydro-2H-pyran-2-yl)oxy)propan-1-ol (520 mg, 1.87 mmol) in MePh (10 mL) was added to a Ar-filled vial charged with Pd(OAc)2 (63 mg, 0.28 mmol), 2-(di-tert-butylphosphino)-1,1′-binaphthyl (140 mg, 0.35 mmol) and (Cs2CO3 915 mg, 2.81 mmol). The vial was sealed and placed in a preheated oilbath (100° C.) overnight. Subsequently, the mixture was diluted with DCM, filtrated over Celite, and conc. in vacuo. Purification by means of CC (20-80% EtOAc/Hept) provided the product as a yellow oil as an isomeric mixture.

reactant | 3-(4-chlorothiazol-5-yl)-3-((tetrahydro-2H-pyran-2-yl)oxy)propan-1-ol | 1.87 mmol, 520 mg | ClC=1N=CSC1C(CCO)OC1OCCCC1 | C11H16ClNO3S
reactant | 2-(di-tert-butylphosphino)-1,1′-binaphthyl | 0.35 mmol, 140 mg | C(C)(C)(C)P(C1=C(C2=CC=CC=C2C=C1)C1=CC=CC2=CC=CC=C12)C(C)(C)C | C28H31P
reactant | Cs2CO3 | 2.81 mmol, 915 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | MePh | 10 mL | CC1=CC=CC=C1 | C7H8
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Pd(OAc)2 | 0.28 mmol, 63 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 7-((Tetrahydro-2H-pyran-2-yl)oxy)-6,7-dihydro-5H-pyrano[2,3-d]thiazole | O1C(CCCC1)OC1CCOC=2N=CSC21 | C11H15NO3S
